current_source_voltage_divider - fault test
I1 0 out DC 0.01
C1 out 0 8.9e-06
R2 out 0 1961.164216
.op
.control
run
print v(out)
print @r2[i]
print @i1[i]
.endc
.end
